Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Abdominal pain
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
This is a ___ year old man with past medical history of DM, HTN, 
PUD s/p partial gastrectomy, and cholecystectomy for 
choleycystitis complicated by bile leak in ___ who presented 
with abdominal pain since the night prior to presentation and 
acute pancreatitis.  He reports over the past week prior to 
presenting to the ED he had occasional "shocks" and feeling of 
discomfort running down his abdomen that he describes as "like 
an ice cream headache."  The night before presentation around 
midnight he developed acute abdominal pain that was diffuse and 
felt like extreme distension.  He also felt very chilled and 
cold, took BP at home and was 80/53.  Presented to OSH where he 
did have non-bloody vomiting though he denies significant 
nausea.   At OSH received ampicillin-sublactam and NS.  Labs 
notable for lipase and amylase >1000.  Had a RUQ U/S that showed 
dilated CBD to 13 mm w/o clear stone and a CT that showed air in 
biliary tree.  Pain was initially ___ out of 10 and improved 
with hydromorphone to manageable level.  He was transferred here 
for further management.  Reports normal bowel movements through 
the morning prior when had a nonbloody BM.   No fevers at home.  
Reports anorexia since onset of pain.  No recent weight loss or 
gain.  Not passing gas but burping.  Reports some anxiety 
(reports wife's nephew recently died of pancreatitis). 

In the ED all vital signs were stable after hydration at OSH.  
Pt was not acutely nauseous.  He was seen by biliary surgery who 
felt no acute surgical management as his CBD dilation was stable 
and he overall appeared well.   Pain at ___ at time of transfer 
to floor.  Most recent vitals BP 132/82, P 73 hr, O2 97% on 2L, 
temp 97.9, RR 16. 

REVIEW OF SYSTEMS:
(+) Per HPI  
(-) Denies fever, night sweats, recent weight loss or gain. 
Denies headache, sinus tenderness, rhinorrhea or congestion. 
Denied cough, shortness of breath. Denied chest pain or 
tightness, palpitations. Denied nausea, vomiting, diarrhea, 
constipation. No dysuria. Denied arthralgias or myalgias. 
Otherwise unremarkable.  

 
Past Medical History:
Cholelithiasis  
Diabetes Mellitus type 2
Hypertension  
S/P Billroth II surgery > ___ years ago for PUD 
Hyperlipidemia
Anxiety
 
Social History:
___
Family History:
Mother with cholelithiasis.  Older brother with DM.  
 
Physical Exam:
On Admission:
VS:  T 96.7, BP 127/75, P 77, RR 20, O2 97% on 3L
Gen:Robust appearing man in NAD
Eyes: PEERL, conjunctivae clear (not icteric)
ENT: Mucous membranes moist, OP clear without lesions
CV: Regular rate and rhythm, normal S1 and S2, no M/R/G; no 
lower extremity edema; two peripheral IVs in place
Respiratory: Breathing comfortably without accessory muscle use, 
Clear to auscultation with good air movement bilaterally and 
without wheezes, rhonchi or rales, clear to percussion without 
dullness
Gastrointestinal: Soft, obese, non-distended (per patient), 
mildy tender to palpation in epigastrum without guarding or 
rebound, no hepatosplenomegaly or masses appreciated, bowel 
sounds hypoactive
MSK: Normal bulk and tone in all muscle groups
Neurological: Normal attention, fluent speech
Integument: Warm and dry, no rashes or ulcers appreciated
Psych: Pleasant, appropriate, normal but mildly anxious affect

 
Pertinent Results:
===================
LABORATORY RESULTS
===================
On Admission:
WBC-10.6 RBC-4.84 Hgb-15.8 Hct-44.9 MCV-93 RDW-13.8 Plt ___ PTT-21.9* ___
Glucose-236* UreaN-16 Creat-0.9 Na-142 K-4.7 Cl-104 HCO3-28 
ALT-38 AST-24 AlkPhos-64 TotBili-1.1
Lipase-1430*
Lactate-2.5*

OSH Trop <0.01

OSH UA:
Sl cloudy.  Uobilinogen 0.2.  Otherwise WNL.

==============
MICROBIOLOGY
==============
Blood Culture ___: No growth to date
Urine culture ___: no growth

==================
RADIOLOGY RESULTS
==================
CTA Chest/Abdomen/Pelvis ___ (OSH read):
Pulmonary emphysema, bilateral scattered basilar scarring.  5 mm 
pulmonary nodule.  No LAD or hemorrhage. R pleural thickening 
w/o calcifications.  Abdomen: Extensive biliary air.  CBD 
dilated to 15 mm.  8 mm air collection along the posterior 
lateral margin of the pancreas likely diverticulum though 
perforation not excluded.  Kidneys and spleen normal.  Moderate 
peripancreatic stranding and moderate fluid.  No definite 
loculated collections.  No evidence of intestinal perforation or 
obstruction.  Colonic diverticulosis w/o diverticulitis. 

EKG from OSH reviewed:
NSR at 71.  Mild AV delay.  No acute ST or T wave changes.  Mild 
inferior ST depressions.  

MRCP ___:
IMPRESSION:
1. 1-cm common bile duct tapers smoothly distally to the papilla 
without an
obstructing mass or filling defect.
2. Diffuse pancreatic edema consistent with pancreatitis with 
induration of
the surrounding peripancreatic fat. No necrosis or collections.
3. Hepatic steatosis.

Chest Radiograph ___:
FINDINGS: As compared to the previous radiograph, the lung 
volumes have
decreased. A right pleural effusion that has increased in extent 
as compared to the previous image. Increasing evidence of fluid 
overload with a left basal atelectasis and a slightly enlarged 
right hilus. No focal parenchymalopacities suggesting pneumonia.
.
RUA u/s ___: 
1. Diffusely echogenic liver consistent with hepatic steatosis. 
Other forms of advanced liver disease including fibrosis and 
cirrhosis cannot be excluded on this study. No focal liver 
lesion is identified. 
2. Persistent extra-hepatic biliary ductal dilatation with the 
common bile 
duct measuring 1.0 cm. No stone or mass is identified to suggest 
acute 
obstruction. There is no associated intrahepatic biliary ductal 
dilatation 
.
___ URINE URINE CULTURE-FINAL INPATIENT 
___ URINE URINE CULTURE-FINAL INPATIENT 
___ BLOOD CULTURE Blood Culture, Routine-PENDING 
INPATIENT 
___ BLOOD CULTURE Blood Culture, Routine-PENDING 
EMERGENCY WARD 

 
Brief Hospital Course:
___ y.o. man with history of DMII, HTN, and cholelithiasis and 
choleycystitis s/p choleycystectomy early this year presenting 
with acute abdominal pain and pancreatitis. 

1) Acute pancreatitis: The patient presented with acute 
abdominal pain, nausea, and anorexia with lipase >1000 very 
suggestive of acute pancreatitis.  Imaging also showed 
pancreatic edema.  Given dilated bile ducts, history of 
cholelithiasis, and previous manipulation of the bile ducts 
initially major concern was for an obstructing stone.  Multiple 
imaging studies (including OSH CT, OSH U/S, and MRCP at ___ 
all showed no obstructing stone of flow void.  Therefore, GI and 
surgery both felt that dilation was chronic after surgery and 
pancreatitis was unrelated.   Therefore, patient was managed 
conservatively with fluids, analgesia, and NPO status.  On 
hospital day three he began to notice significant improvement in 
is pain and was transitioned to an oral diet and oral analgesia. 
 He handled advancement of his diet well.  Regarding etiology of 
pancreatitis this remains unknown.  Given no stone and patient 
emphatically denied heavy alcohol use presumably due to 
medication or idiopathic.  Highest probability med among those 
he takes is simvastatin so this was held and will continue to be 
held at discharge (though still considered unlikely culprit as 
he had been on it for some time).  He should discuss with his 
PCP attempting another statin as this continues to be a quite 
unlikely cause.  Metformin was also held in the hospital and on 
discharge as the starting and stopping of this med prior to 
presentation makes it the only major change in his meds.  It is 
not a typical culprit medication for pancreatitis but as he also 
had GI symptoms he found extremely unpleasant with it he had it 
held and will discuss alternative agents of glycemic control 
with his PCP.   

2) Hyperbilirubinemia- The patient presented with a normal 
bilirubin but then this increased to a peak of 2.8.  This was 
primarily an indirect hyperbilirubinemia and etiology was 
unclear.  There were no other signs or symptoms to suggest 
hemolysis and after a brief increase this sharply improved so it 
was 2.0 on day of discharge.  Pt will follow up with his PCP for 
___ recheck.  

3) Hypotension: Pt had transient hypotension prior to 
hospitalization at home. Unclear etiology.  He was initially 
treated with ampicillin-sublactam for presumed cholangitis but 
given not a great story for obstruction and no right upper 
quadrant pain this was stopped on hospital day 2.  He was never 
hypotensive again and cultures remained negative.  Suspicion 
this was perhaps due to a vagal episode in context of new pain, 
chills, and nausea.  During hospitalization the patient had one 
low grade fever to 100.7 but given negative infectious work up 
this was thought due to pancreatitis.  At time of discharge he 
had been off antibiotics for >48 hours with steady improvement 
in his clinical picture.

4) Acute on chronic diastolic CHF/mild hypoxia- Mr ___ had 
signs of diastolic dysfunction on echo during his last 
hospitalization and during this hospitalization in the context 
of getting large volumes of fluid and having not a great deal of 
outs he had hypoxia to high ___ on room air and crackles on lung 
exam (was never really dypsneic).  Imaging consistent with 
volume overload.  As he was still NPO and was making good urine 
he was allowed to autodiurese.  At time of discharge, pt was 
sating 96% on RA and maintained sats >90% during ambulation. Pt 
should follow up in the outpatient setting can can consider PFTs 
and pulmonology consult. Pt likely has an element of COPD due to 
long smoking history. However, he did not display signs of flare 
during admission.

5) Pneumobilia: Pt had pneumobilia on initial imaging that was 
discussed with surgery who felt it was post procedural air and 
did not suggest abdominal catastrophe (exam was consistent with 
this as well) and further imaging revealed no evolution or 
change.  

6) Anxiety: he was continued on his home alprazolam PRN

7) Diabetes Mellitus type 2, uncontrolled, without complication: 
He was transitioned to insulin sliding scale on presentation and 
will be transitioned back to PO anti-hypoglycemics at discharge. 
 Metformin held ("see discussion under Acute Pancreatitis")

8) Hypertension: His ACEi was initially held due to reported 
hypotension at home.  His renal function remained stable and he 
had no further hypotension so this was restarted.
.
Transitional Issues:
-He will follow up with his PCP to monitor bilirubin and to make 
sure this resolved to the normal range
-He will follow up with his PCP to discuss restarting another 
statin given unclear simvastatin was cause of pancreatitis
-He will follow up with his PCP to discuss diabetes management 
as Mr ___ reports a pretty classical pattern of GI 
disturbance due to metformin and is quite reluctant to take this 
going forward, this will be held on discharge and he will follow 
up with PCP to discuss this an with a record of blood glucoses 
off the medication
 
Medications on Admission:
lisinopril 10 mg PO DAILY 
alprazolam 0.25 mg PO TID as needed for anxiety.  
metformin 1000 mg PO BID
glyburide 5 mg twice a day.  
simvastatin 10 mg PO DAILY 

 
Discharge Medications:
1. alprazolam 0.25 mg Tablet Sig: One (1) Tablet PO TID (3 times 
a day) as needed for anxiety.  
2. lisinopril 10 mg Tablet Sig: One (1) Tablet PO once a day.  
3. glyburide 5 mg Tablet Sig: One (1) Tablet PO once a day.  
4. lisinopril 10 mg Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
5. Outpatient Lab Work
CBC and bilirubin. Please have these labs checked at your 
upcoming PCP appointment
Name: ___. 
Location: ___ 
Address: ___, ___ 
Phone: ___ 
Fax: ___ 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnosis:
Acute pancreatitis 

Secondary Diagnoses:
Diabetes Mellitus Type 2
Hypertension
Hyperlipidemia
s/p CCY

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted with inflammation of your pancreas that is 
called pancreatitis.  You were given IV fluids, bowel rest, and 
medication for pain and nausea. Your imaging studies did not 
find a cause to your pancreatitis. The exact cause is unclear, 
it is possible that your pancreatitis was related to one of your 
medications. It is important that you follow a low fat diet as 
well as avoid alcohol as this could precipitate further 
episodes.

Your medications have been changed.  Your simvastatin was held 
as it can cause pancreatitis and your metformin was held as it 
was making you feel ill.  You can discuss alternatives to these 
medications with your PCP.  Otherwise please continue to take 
your medications as previously prescribed.  

Since your metformin was stopped you may have higher blood 
glucose values.  It is important you check your sugars twice a 
day (once in the morning and once after a meal) and have these 
to discuss with Dr. ___ you follow with him.  
 
Followup Instructions:
___